US08217031B2
Ethyl 3-[(thiophen-2-ylmethyl)amino]propanoate
2-Thiophene aldehyde (11.2 g) was dissolved in 100 mL of methanol, then 12.1 g of triethylamine and 16.1 g of ethyl 3-aminopropionate hydrochloride were added thereto in this order and the mixture was stirred overnight at room temperature. The reaction solution was cooled down to 0° C., 2.27 g of sodium borohydride was slowly added thereto little by little and the mixture was stirred at room temperature for 1 hour.

reactant | 2-Thiophene aldehyde | 11.2 g | S1C(=CC=C1)C=O | C5H4OS
reactant | triethylamine | 12.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 3-aminopropionate hydrochloride | 16.1 g | Cl.NCCC(=O)OCC
reactant | sodium borohydride | 2.27 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | Ethyl 3-[(thiophen-2-ylmethyl)amino]propanoate | S1C(=CC=C1)CNCCC(=O)OCC | C10H15NO2S
